US08383625B2
2-Bromo-N-pyrazin-2-yl-acetamide
A stirred solution of amino pyrazole (10 g, 105 mmol) in acetone (100 ml) is treated with triethylamine (16.1 ml, 115 mmol) and then cooled to 0-5° C. using an ice bath. To the cooled solution is added drop-wise bromoacetyl chloride (8.76 g, 105 mmol) in acetone (10 ml). The cooled reaction mixture is stirred for 3 hours and then filtered. The solvent is removed in vacuo and purification by chromatography on silica (eluting with ethyl acetate-iso-hexane, 2:1 increasing to 100% ethyl acetate) affords the titled compound.

reactant | amino pyrazole | 105 mmol, 10 g | NC1=NNC=C1 | C3H5N3
reactant | triethylamine | 115 mmol, 16.1 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl chloride | 105 mmol, 8.76 g | BrCC(=O)Cl | C2H2BrClO
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-Bromo-N-pyrazin-2-yl-acetamide | BrCC(=O)NC1=NC=CN=C1 | C6H6BrN3O
